US07205301B2
2-{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-4,4,5-trimethyl-2,4-dihydro-pyrazole-3-thione
A mixture of 2-{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-4,4,5-trimethyl-2,4-dihydro-pyrazol-3-one (0.21 g, 0.0005 mol) and Lawesson reagent (0.22 g 0.0005 mol) in toluene (3 ml) is stirred at 100° C. for one hour. After cooling the resulting solution is directly purified by silicagel column chromatography to the title compounds (IVb) (0.19 g, 88.1%) m.p. 167–168° C.,

reactant | 2-{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-4,4,5-trimethyl-2,4-dihydro-pyrazol-3-one | 0.0005 mol, 0.21 g | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)N1N=C(C(C1=O)(C)C)C | C21H19ClN6O
reactant | Lawesson reagent | 0.0005 mol, 0.22 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
product | 2-{4-[2-(3-Chloro-phenylamino)-pyrimidin-4-yl]-pyridin-2-yl}-4,4,5-trimethyl-2,4-dihydro-pyrazole-3-thione | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)N1N=C(C(C1=S)(C)C)C | C21H19ClN6S
